US07511050B2
Step A: (1Z)-N′-hydroxy-2-[4-(trifluoromethyl)phenyl]ethanimidamide
A suspension of [4-(trifluoromethyl)phenyl]acetonitrile (1.0 g, 5.4 mmoles), hydroxylamine hydrochloride (0.41 g, 5.9 mmoles) and NaHCO3 (0.50 g, 5.9 mmoles) in MeOH (15 ml) was refluxed for 4 hours. The reaction mixture was then concentrated to remove the solvent methanol. The residue was extracted with ethyl acetate. The combined organic layers were washed with brine and dried over Na2SO4 and concentrated to afford the desired product (1.0 g, 84.9%) as white solid. LCMS calculated for C9H10F3N2O(M+H): 219.1; found: 219.1.

reactant | [4-(trifluoromethyl)phenyl]acetonitrile | 5.4 mmoles, 1.0 g | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | hydroxylamine hydrochloride | 5.9 mmoles, 0.41 g | Cl.NO
reactant | NaHCO3 | 5.9 mmoles, 0.50 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
product | (1Z)-N′-hydroxy-2-[4-(trifluoromethyl)phenyl]ethanimidamide | 1.0 g, 84.9% | O\N=C(\CC1=CC=C(C=C1)C(F)(F)F)/N | C9H9F3N2O
